US04699926
By carrying out the reaction essentially as described in Example 9, except that the [2,3-dichloro-4-(2-methylenebutyryl)phenoxy]acetic acid is replaced by an equimolar quantity of 1-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]cyclobutane-1-carboxylic acid and the glycine is replaced by an equimolar quantity of β-alanine, there is obtained N-{1-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]cyclobutane-1-carbonyl}3-aminopropionic acid.

reactant | [2,3-dichloro-4-(2-methylenebutyryl)phenoxy]acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C13H12Cl2O4
reactant | 1-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]cyclobutane-1-carboxylic acid | ClC1=C(OC2(CCC2)C(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C16H16Cl2O4
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | β-alanine | NCCC(=O)O | C3H7NO2
product | N-{1-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]cyclobutane-1-carbonyl}3-aminopropionic acid | ClC1=C(OC2(CCC2)C(=O)NCCC(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C19H21Cl2NO5
